US08258144B2
To a solution of 2,4-dichloro-7H-pyrrolo[2,3-d]pyrimidine (1.12 g, 5.96 mmol) in DMSO (8 mL), sodium thiomethoxide (0.500 g, 7.14 mmol) was added. The mixture was stirred at room temperature for 2 h. H2O was added to induce precipitation. The precipitate was collected and dried on vacuum to give 2-chloro-4-(methylthio)-7H-pyrrolo[2,3-d]pyrimidine as a solid (0.90 g).

reactant | 2,4-dichloro-7H-pyrrolo[2,3-d]pyrimidine | 5.96 mmol, 1.12 g | ClC=1N=C(C2=C(N1)NC=C2)Cl | C6H3Cl2N3
reactant | sodium thiomethoxide | 7.14 mmol, 0.500 g | C[S-].[Na+]
reactant | H2O | O | H2O
solvent | DMSO | 8 mL | CS(=O)C | C2H6OS
product | 2-chloro-4-(methylthio)-7H-pyrrolo[2,3-d]pyrimidine | 0.90 g | ClC=1N=C(C2=C(N1)NC=C2)SC | C7H6ClN3S
